US06307047B1
2-(3-Chloro-4-fluorophenyl)-4methoxy-5-[4-(methylthio)phenyl]-3(2H)-pyridazinone
The title compound is prepared according to the method of Example 6 starting with 2-(3-chloro-4-fluorophenyl)-4-methoxy-5-bromo-3(2H)-pyridazinone in place of 2-benzyl-5-methoxy-4-bromo-3(2H)-pyridazinone and substituting 4-(methylthio)benzeneboronic acid in place of 4-fluorobenzeneboronic acid (yield: 3.2 g, 63%). 1H NMR (300 MHz, CDCl3) δ 2.53 (s, 3H), 4.13 (s, 3H), 7.25 (t J=9 Hz, 1H), 7.35 (d, J=9 Hz 2H), 7.52 (d, J=9 Hz, 2H), 7.55-7.64 (m, 1H), 7.78 (dd, J=9 Hz, 3 Hz, 1H), 7.93 (s, 2H). MS (DCI/NH3) m/z 377 (M+H)+, 394 (M+NH4)+.

reactant | 2-(3-chloro-4-fluorophenyl)-4-methoxy-5-bromo-3(2H)-pyridazinone | ClC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OC)Br | C11H7BrClFN2O2
reactant | 4-(methylthio)benzeneboronic acid | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
reactant | NH3 | N | H3N
product | 2-(3-Chloro-4-fluorophenyl)-4methoxy-5-[4-(methylthio)phenyl]-3(2H)-pyridazinone | ClC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OC)C1=CC=C(C=C1)SC | C18H14ClFN2O2S
